US06433196B1
To a suspension of lithium aluminum hydride (1.0 g) dispersed in THF (10 ml) was added dropwise at room temperature a solution of 4-(4′-fluorobenzoyl)isophthalic acid (3.0 g) in THF (30 ml), and the mixture was stirred for 10 hr. To the reduced reaction mixture was added 10% hydrochloric acid (10 ml) and the mixture was passed through celite. THF was evaporated under reduced pressure, and 85% phosphoric acid (10 g) was added. The mixture was stirred at 60° C. for 5 hr. To the reaction mixture was added water (50 ml) and the resulting crystals were collected by filtration and dried. The objective compound was separated by silica gel column chromatography to give 1-(4′-fluorophenyl)-1,3-dihydroisobenzofuran-5-ylmethanol (0.21 g, 8%). The various spectrum data of the crystals were the same as those obtained in Example 12.

reactant | lithium aluminum hydride | 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(4′-fluorobenzoyl)isophthalic acid | 3.0 g | FC1=CC=C(C(=O)C2=C(C=C(C(=O)O)C=C2)C(=O)O)C=C1 | C15H9FO5
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-(4′-fluorophenyl)-1,3-dihydroisobenzofuran-5-ylmethanol | 0.21 g, 8% | FC1=CC=C(C=C1)C1OCC2=CC(=CC=C12)CO | C15H13FO2
